US05274143
98 mg(3.3 mmol)Sodium hydride(80% in mineral oil)was added to a solution of 764 mg (2.96 mmol) methyl(R)-3-hydroxytetradecanoate in 20.0 mL tetrahydrofuran. After 25 minutes, a solution of 732 mg (3.03 mmol) 2-bromooctanoyl chloride in 10.0 mL tetrahydrofuran was added dropwise via syringe to the cloudy offwhite mixture. After 10 minutes at 0° C., the reaction flask was removed from the cold bath for 24 hours. The mixture was poured into 100 mL 10% NaHCO3 and extraction with ether (3×50 mL) was performed. Drying over MgSO4 and removal of the solvent by rotary evaporation gave yellow oil. Purification by flash chromatography (3×24 cm column, 50% CH2Cl2 /hexane) gave 407 mg (30% yield based on methyl (R)-3-hydroxytetradecanoate)(R)-3-[2-bromo-1-oxooctyl)oxy]tetradecanoic acid methyl ester.

reactant | Sodium hydride | 3.3 mmol, 98 mg | [H-].[Na+]
reactant | methyl(R)-3-hydroxytetradecanoate | 2.96 mmol, 764 mg | O[C@@H](CC(=O)OC)CCCCCCCCCCC | C15H30O3
reactant | 2-bromooctanoyl chloride | 3.03 mmol, 732 mg | BrC(C(=O)Cl)CCCCCC | C8H14BrClO
solvent | tetrahydrofuran | 20.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
product | tetradecanoic acid methyl ester | COC(CCCCCCCCCCCCC)=O | C15H30O2
